US07923561B2
[5-(4-Fluoro-benzyloxy)-quinolin-2-yl]-(R)-indan-1-yl-amine
2-Chloro-5-(4-fluoro-benzyloxy)-quinoline (100 mg, 0.347 mmol) and (R)-1-aminoindane (138 mg, 1.04 mmol) were stirred in a sealed tube at 150° C. overnight. The reaction mixture was purified by flash chromatography on silica gel (heptane/ethyl acetate 75:25). The title compound was obtained as a light brown oil (68 mg, 51%), MS: m/e=385 (M+H+).

reactant | 2-Chloro-5-(4-fluoro-benzyloxy)-quinoline | 0.347 mmol, 100 mg | ClC1=NC2=CC=CC(=C2C=C1)OCC1=CC=C(C=C1)F | C16H11ClFNO
reactant | (R)-1-aminoindane | 1.04 mmol, 138 mg | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
product | [5-(4-Fluoro-benzyloxy)-quinolin-2-yl]-(R)-indan-1-yl-amine | FC1=CC=C(COC2=C3C=CC(=NC3=CC=C2)N[C@@H]2CCC3=CC=CC=C23)C=C1 | C25H21FN2O
